US05550125
2.6. (±)-3-(2-Chloroethyl)-6-fluoro-4-[3-(trifluoromethyl)benzoyl]-3,4-dihydro-2H-1,4-benzoxazine.
To 11.27 g (0.031 mol) of (±)-6-fluoro-4-[3-(trifluoromethyl)benzoyl]-3,4-dihydro-2H-1,4-benzoxazine-3-ethanol dissolved in 140 ml of dichloromethane are added 9 ml (0.124 mol) of thionyl chloride and the mixture is stirred at room temperature for 5 h.

reactant | (±)-6-fluoro-4-[3-(trifluoromethyl)benzoyl]-3,4-dihydro-2H-1,4-benzoxazine-3-ethanol | 0.031 mol, 11.27 g | FC=1C=CC2=C(N(C(CO2)CCO)C(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C18H15F4NO3
reactant | thionyl chloride | 0.124 mol, 9 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
product | (±)-3-(2-Chloroethyl)-6-fluoro-4-[3-(trifluoromethyl)benzoyl]-3,4-dihydro-2H-1,4-benzoxazine | ClCCC1COC2=C(N1C(C1=CC(=CC=C1)C(F)(F)F)=O)C=C(C=C2)F | C18H14ClF4NO2
